US04435208
A solution of 41.5 g of 5-(2,6-dichloro-4-trifluoromethyl-phenoxy)-2-nitro-benzoic acid chloride in 100 ml of diglyme was added to a mixture of 4.2 g of sodium boranate and 60 ml of diglyme at -5° to -10° C. The reaction mixture was stirred for about 15 hours at room temperature, diluted with 1.2 liters of water and acidified with acetic acid, and the product was filtered off. 36 g (94% of theory) of 5-(2,6-dichloro-4-trifluoromethyl-phenoxy)-2-nitro-benzyl alcohol, of melting point 143° C., were obtained.

reactant | 5-(2,6-dichloro-4-trifluoromethyl-phenoxy)-2-nitro-benzoic acid chloride | 41.5 g | ClC1=C(OC=2C=CC(=C(C(=O)Cl)C2)[N+](=O)[O-])C(=CC(=C1)C(F)(F)F)Cl | C14H5Cl3F3NO4
reactant | sodium boranate | 4.2 g | B(=O)[O-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | diglyme | 100 ml | COCCOCCOC | C6H14O3
solvent | water | 1.2 liters | O | H2O
solvent | diglyme | 60 ml | COCCOCCOC | C6H14O3
product | 5-(2,6-dichloro-4-trifluoromethyl-phenoxy)-2-nitro-benzyl alcohol | 36 g, 94% | ClC1=C(OC=2C=CC(=C(CO)C2)[N+](=O)[O-])C(=CC(=C1)C(F)(F)F)Cl | C14H8Cl2F3NO4
